US05883106
B. Ethyl 1-(5-fluoro-3-hydroxyphenyl)cyclopentane1-carboxylate
The titled compound was prepared from ethyl 1-(3-benzyloxy-5-fluorophenyl)-cyclopentane-1-carboxylate according to the preparation of ethyl 4-(5-fluoro-3-hydroxyphenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate.

reactant | ethyl 1-(3-benzyloxy-5-fluorophenyl)-cyclopentane-1-carboxylate | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C1(CCCC1)C(=O)OCC | C21H23FO3
reactant | ethyl 4-(5-fluoro-3-hydroxyphenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate | FC=1C=C(C=C(C1)C1(CCOCC1)C(=O)OCC)O | C14H17FO4
product | Ethyl 1-(5-fluoro-3-hydroxyphenyl)cyclopentane1-carboxylate | FC=1C=C(C=C(C1)C1(CCCC1)C(=O)OCC)O | C14H17FO3
